US07491710B2
A suspension of 2.22 g of 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester and of 3.90 g of cesium carbonate in 22 ml of 1,2-dibromoethane is heated at 80° C. for 40 hours and then cooled to ambient temperature and evaporated under reduced pressure in a rotary evaporator. The reaction crude is purified by flash chromatography (silica 40-63 μm), eluent: dichloromethane; 2 g of 5-benzyloxy-3-[5-(2-bromoethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester are isolated.

reactant | 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester | 2.22 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O)C(=O)OC(C)(C)C | C32H33N3O6
reactant | cesium carbonate | 3.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dibromoethane | 22 ml | BrCCBr | C2H4Br2
product | 5-benzyloxy-3-[5-(2-bromoethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCBr)C(=O)OC(C)(C)C | C34H36BrN3O6
